US05508272
(S)-2-Phthalimido-6-hvdroxyhexanoic acid
The above crude reaction mixture was heated to 35° C. and treated with about 600 ml of 6N sodium hydroxide followed by 1N sodium hydroxide to adjust to pH of 7.5 (final volume was about 5.3 l). To this mixture was added 0.6 g of porcine kidney acylase I. After stirring overnight at 35° C. the pH was 7.25. The pH was adjusted to 7.5 and an additional 300 mg of acylase was added. After stirring overnight, the reaction appeared to be about 90% complete. The reaction mixture was next treated with 20 g of charcoal and 20 g of Celite®, then heated to 85° C. and maintained at that temperature for 10 minutes, then cooled to 50° C. and filtered. At this point, the total volume of the filtrate was about 4.9 l. The filtrate was cooled to 5° C. and solid sodium carbonate was added to adjust the pH to 9.3. N-Carbethoxyphthalimide (263.04 g, 1.2 mol) was added in one portion and sodium carbonate was added as needed to keep the pH at 9.3. After 2 hours at 5° C. followed by 3 hours at room temperature, the pH dropped to 8.5 and most of the reagents had dissolved. The reaction mixture was filtered, cooled to 5° C. and acidified to pH 2.3 with 6N hydrochloric acid. The precipitated solid was collected by filtration and washed with 200 ml of cold water, then dried in vacuo to yield 220 g of title product.

reactant | charcoal | 20 g | C | CH4
reactant | N-Carbethoxyphthalimide | 1.2 mol, 263.04 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sodium hydroxide | 6N, about 600 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | (S)-2-Phthalimido-6-hvdroxyhexanoic acid | 220 g | C1(C=2C(C(N1[C@H](C(=O)O)CCCCO)=O)=CC=CC2)=O | C14H15NO5
